US09447091B2
a) N-(3-bromo-5-((4-(1-methyl-1H-pyrazol-4-yl)-2-nitrophenyl)amino)phenyl) acetamide
A solution of 4-(4-fluoro-3-nitrophenyl)-1-methyl-1H-pyrazole (1.6 g, 7.239 mmol), N-(3-amino-5-bromophenyl)acetamide (1.98 g, 8.687 mmol) and potassium fluoride (0.503 g, 8.687 mmol) in DMF was heated at 130° C. for 48 h. The mixture was quenched and extracted as in Example 1(d). The solvent was distilled off to afford the crude residue which was purified by column chromatography (60-120 silica gel, 50% ethyl acetate in hexane) to yield the title product in 35% yield (1.1 g); LC-MS (API): Calculated mass: 430.1; Observed mass: 432 [M+H]+ (rt: 1.50 min).

reactant | 4-(4-fluoro-3-nitrophenyl)-1-methyl-1H-pyrazole | 7.239 mmol, 1.6 g | FC1=C(C=C(C=C1)C=1C=NN(C1)C)[N+](=O)[O-] | C10H8FN3O2
reactant | N-(3-amino-5-bromophenyl)acetamide | 8.687 mmol, 1.98 g | NC=1C=C(C=C(C1)Br)NC(C)=O | C8H9BrN2O
reactant | potassium fluoride | 8.687 mmol, 0.503 g | [F-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(3-bromo-5-((4-(1-methyl-1H-pyrazol-4-yl)-2-nitrophenyl)amino)phenyl) acetamide | 35% yield | BrC=1C=C(C=C(C1)NC1=C(C=C(C=C1)C=1C=NN(C1)C)[N+](=O)[O-])NC(C)=O | C18H16BrN5O3
